US07544702B2
6-(2,4-Dichloro-benzenesulfonylamino)-3-[4-(morpholine-4-sulfonyl)-phenylsulfanyl]-pyridine-2-carboxylic acid methyl ester (76)
Prepared from 2-amino-5-bromo-6-methoxycarbonylpyridine and 4-(N-morpholinylsulfonyl)thiophenol according to General Method 11 step 1 followed by reaction with 2,4-dichlorophenylsulfonyl chloride according to General Method 11 step 2. 1H NMR (CDCl3): 8.04 (1H, d, J 11 Hz, A-ring CH ortho to SO2NH), 7.62 & 7.42 (2×2 H, 2×d, 2×J 10 Hz, C-ring CH's), 7.43 (1H, s, A-ring CH ortho to 2×Cl), 7.31 (1H, d, J 11 Hz, A ring CH ortho to Cl), 7.28 & 7.18(2×1H, 2×d, 2×J 10 Hz, pyridyl CH's), 3.89 (3H, s, CH3) 3.72-3.63 (4H, m, CH2OCH2), 2.98-2.88 (4H, m, CH2NCH2). Hplc (Luna 2, Gradient 5): rt=6.00 minutes. LC/MS rt=6.69 minutes, 618/620 (MH+).

reactant | 2-amino-5-bromo-6-methoxycarbonylpyridine | NC1=NC(=C(C=C1)Br)C(=O)OC | C7H7BrN2O2
reactant | 4-(N-morpholinylsulfonyl)thiophenol | N1(CCOCC1)S(=O)(=O)C1=CC=C(C=C1)S | C10H13NO3S2
reactant | 2,4-dichlorophenylsulfonyl chloride | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 6-(2,4-Dichloro-benzenesulfonylamino)-3-[4-(morpholine-4-sulfonyl)-phenylsulfanyl]-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=CC=C1SC1=CC=C(C=C1)S(=O)(=O)N1CCOCC1)NS(=O)(=O)C1=C(C=C(C=C1)Cl)Cl | C23H21Cl2N3O7S3
